US08357693B2
A suspension of tert-butyl 5-(6-acetoxy-2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.50 g, 0.98 mmol), nicotinoyl chloride hydrochloride (0.224 g, 1.26 mmol) and DIEA (0.45 g, 3.48 mmol) in CH2Cl2 (15 mL) was stirred at RT for 7 h. The volatiles were removed in vacuo and the residue was purified by preparative TLC (SiO2, CH2Cl2:MeOH 9:1) to give the product tert-butyl 5-(6-acetoxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.374 g, 0.608 mmol, 62%).

reactant | tert-butyl 5-(6-acetoxy-2-(3-aminophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.98 mmol, 0.50 g | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1)C1=CC(=CC=C1)N)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C28H26N6O4
reactant | nicotinoyl chloride hydrochloride | 1.26 mmol, 0.224 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | DIEA | 3.48 mmol, 0.45 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(6-acetoxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.608 mmol, 0.374 g, 62% | C(C)(=O)OC=1C=C2C(=NC(=NC2=CC1)C1=CC(=CC=C1)NC(C1=CN=CC=C1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C34H29N7O5
